US07759373B2
To a solution of 2-(3-fluorophenyl)-5-methylthiomethyl-4-(3-pyridyl)imidazole (152 mg) in tetrahydrofuran (10 ml) was added metachloroperbenzoic acid (97 mg, 70% purity) under ice-cooling, and the mixture was stirred at room temperature for 5 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: chloroform:methanol=19:1), and then, treated with hydrogen chloride-dioxane solution to obtain 2-(3-fluorophenyl)-5-methylsulfinylmethyl-4-(3-pyridyl)imidazole hydrochloride (140 mg) as colorless powder.

reactant | 2-(3-fluorophenyl)-5-methylthiomethyl-4-(3-pyridyl)imidazole | 152 mg | FC=1C=C(C=CC1)C=1NC(=C(N1)C=1C=NC=CC1)CSC | C16H14FN3S
reactant | metachloroperbenzoic acid | 97 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(3-fluorophenyl)-5-methylsulfinylmethyl-4-(3-pyridyl)imidazole hydrochloride | 140 mg | Cl.FC=1C=C(C=CC1)C=1NC(=C(N1)C=1C=NC=CC1)CS(=O)C | InChI=1S/C16H14FN3OS.ClH/c1-22(21)10-14-15(12-5-3-7-18-9-12)20-16(19-14)11-4-2-6-13(17)8-11;/h2-9H,10H2,1H3,(H,19,20);1H
